US07662975B2
Trifluoro-methanesulfonic acid 4-methyl-2-oxo-2H-chromen-6-yl ester
6-Hydroxy-4-methyl-chromen-2-one (25 mg, 0.142 mol) and pyridine (300 mL) were dissolved in CH2Cl2 (200 mL) at room temperature and the reaction mixture was cooled to 0° C. and then treated with Tf2O (40 mL). After 1 hour, ethyl acetate (900 mL) was poured into the reaction mixture and the reaction mixture was transferred into a separation funnel. The reaction mixture was then washed with 5% sodium bicarbonate (2×450 ml), water (450 ml) and then brine. The organic layer was dried over sodium sulfate and concentrated. Flash column chromatography on silica gel eluted with 20-50% ethyl acetate in hexane yielded the title compound as a foam.

reactant | 6-Hydroxy-4-methyl-chromen-2-one | 0.142 mol, 25 mg | OC=1C=C2C(=CC(OC2=CC1)=O)C | C10H8O3
reactant | pyridine | 300 mL | N1=CC=CC=C1 | C5H5N
reactant | Tf2O | 40 mL | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | ethyl acetate | 900 mL | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | Trifluoro-methanesulfonic acid 4-methyl-2-oxo-2H-chromen-6-yl ester | CC1=CC(OC2=CC=C(C=C12)OS(=O)(=O)C(F)(F)F)=O | C11H7F3O5S
